US07094801B2
4-[3E-(2,4-Dimethoxy-5-pyrimidin-5-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-pyrimidin-5-yl-benzaldehyde (Ex-31A) and 4-acetylbezoic acid in a similar manner as described in Ex-3. Yellow solid, mp>260° C., 26% yield. 1H-NMR (DMSO-d6) δ 9.11 (s, 1H), 8.96 (s, 2H), 8.13–8.16 (m, 3H), 8.01–8.09 (m, 3H), 7.90 (d, J=15 Hz, 1H), 6.85 (s, 1H), 3.99 (s, 3H), MS m/z=391 ([M+H]+, 100%). HRMS (ES+) Calcd. for C22H18N2O5: 391.1294. Found: 391.1295.

reactant | 2,4-dimethoxy-5-pyrimidin-5-yl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1C=NC=NC1 | C13H12N2O3
reactant | 4-acetylbezoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2,4-Dimethoxy-5-pyrimidin-5-yl-phenyl)-acryloyl]-benzoic acid | 26% yield | COC1=C(C=C(C(=C1)OC)C=1C=NC=NC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H18N2O5
